US07902367B2
1-(tert-Butoxycarbonyl)-3-(iodomethyl)piperidine
Imidazole (1.58 g, 23.2 mmol), triphenylphosphine (6.09 g, 23.2 mmol) and iodine (4.72 g, 18.6 mmol) were added to 1-(tert-butoxycarbonyl)piperidin-3-yl methanol (2.00 g, 9.29 mmol) in benzene (50 mL). The mixture was stirred at room temperature for 3 hours. Subsequently, the reaction mixture was filtered through Celite and the solvent was evaporated. Water was added to the residue and the mixture was extracted with ethyl acetate. The extract was washed with brine and was dried over magnesium sulfate, followed by evaporation of the solvent. Purification of the residue by silica gel column chromatography (hexane:ethyl acetate=20:1->5:1) gave 2.91 g (96%) of the desired compound as a pale yellow oil.

reactant | Imidazole | 23.2 mmol, 1.58 g | N1C=NC=C1 | C3H4N2
reactant | triphenylphosphine | 23.2 mmol, 6.09 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 18.6 mmol, 4.72 g | II | I2
reactant | 1-(tert-butoxycarbonyl)piperidin-3-yl methanol | 9.29 mmol, 2.00 g | C(C)(C)(C)OC(=O)N1CC(CCC1)CO | C11H21NO3
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 1-(tert-Butoxycarbonyl)-3-(iodomethyl)piperidine | 2.91 g, 96% | C(C)(C)(C)OC(=O)N1CC(CCC1)CI | C11H20INO2
